US06569888B1
N-(3,4-Dichlorobenzyl)-4-(3-hydroxypropoxy)indole-2-carboxylic Acid (Compound 15)
Methyl N-(3,4-Dichlorobenzyl)-4-(3-hydroxypropyloxy)indole-2-carboxylate (6.9 g) was dissolved in THF (140 ml) and methanol (140 ml) and sodium hydroxide (3M, 110 ml) was added and the reaction stirred for 16 hours. The reaction was then concentrated in vacuo and the residue dissolved in water. The solution was acidified by dropwise addition of acetic acid, resulting in the precipitation of a white solid which was filtered, washed with water and dried in vacuo to give the desired end product (5.58 g. 84%); NMR d (CD3SOCD3) 1.92 (m, 2H), 3.60 (dd, 2H), 4.13 (dd, 2H), 5.89 (s, 2H), 6.52 (s, 1H), 6.94-7.11 (m, 4H), 7.32 (d, 1H), 7.47 (d, 1H); M/z (−) 392 (M−H+).

reactant | Methyl N-(3,4-Dichlorobenzyl)-4-(3-hydroxypropyloxy)indole-2-carboxylate | 6.9 g | ClC=1C=C(CN2C(=CC3=C(C=CC=C23)OCCCO)C(=O)OC)C=CC1Cl | C20H19Cl2NO4
reactant | methanol | 140 ml | CO | CH4O
reactant | sodium hydroxide | 3M, 110 ml | [OH-].[Na+]
solvent | THF | 140 ml | C1CCOC1 | C4H8O
product | N-(3,4-Dichlorobenzyl)-4-(3-hydroxypropoxy)indole-2-carboxylic Acid | ClC=1C=C(CN2C(=CC3=C(C=CC=C23)OCCCO)C(=O)O)C=CC1Cl | C19H17Cl2NO4
